US08258158B2
To a pre-cooled THF solution (200 ml) under an argon atmosphere was added at −5° C. LDA (2M in THF/heptane/ethylbenzene, 16.24 ml) then dropwise piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester (4.4 g, 4.2 ml) in THF (50 ml). The mixture was stirred between −5° C. to 0° C. for 3 hour and 1-bromo-3-methoxypropane (4.97 g) was added slowly at 0° C. The mixture was then stirred overnight at RT, the solvent was evaporated off, the residue taken up in ethyl acetate and washed with water then brine. The layers were separated, the organic layer dried over sodium sulphate and then evaporated off to give the desired 4-(3-methoxy-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester a light brown oil (6.058 g) oil that was used in next reaction step without further purification.

reactant | LDA | 2M, 16.24 ml | [Li+].CC(C)[N-]C(C)C
reactant | piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | 4.2 ml, 4.4 g | C(C)OC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C13H23NO4
reactant | 1-bromo-3-methoxypropane | 4.97 g | BrCCCOC | C4H9BrO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 4-(3-methoxy-propyl)-piperidine-1,4-dicarboxylic acid 1-tert-butyl ester 4-ethyl ester | C(C)OC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCCOC | C17H31NO5
